US09376418B2
Potassium cyanate (71.1 mg, 0.876 mmol) was added to a mixture of N-(3-{6-[amino(dicyclopropyl)methyl]pyridin-3-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine (257 mg, 0.584 mmol), THF (4.00 mL), acetic acid (0.050 ml, 0.876 mmol), and water (2.00 mL) and the reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted with saturated aqueous NaHCO3 (20.0 mL) and extracted with ethyl acetate (50.0 mL). The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (0-20% methanol in ethyl acetate) and the isolated material was then triturated with ethyl acetate (4.00 mL) and methanol (0.50 mL) to yield 1-{dicyclopropyl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}urea. MS APCI calc'd for C25H26F3N6O [M+H]+ 483. found 483. 1H NMR (500 MHz, CD3OD) δ11.08 (s, 1H), 9.65 (d, J=5.3 Hz, 1H), 9.49 (d, 1H), 8.74 (s, 1H), 8.68 (d, J=11.2 Hz, 1H), 8.47-8.19 (m, 2H), 8.08 (d, J=5.2 Hz, 1H), 7.98 (s, 1H), 6.87 (s, 1H), 6.24 (s, 2H), 3.16 (s, 4H), 2.26 (s, 2H), 1.26 (d, J=25.7 Hz, 3H), 1.10 (d, J=6.0 Hz, 4H).

reactant | Potassium cyanate | 0.876 mmol, 71.1 mg | [O-]C#N.[K+]
reactant | N-(3-{6-[amino(dicyclopropyl)methyl]pyridin-3-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine | 0.584 mmol, 257 mg | NC(C1=CC=C(C=N1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F)(C1CC1)C1CC1 | C24H24F3N5
reactant | THF | 4.00 mL | C1CCOC1 | C4H8O
reactant | acetic acid | 0.876 mmol, 0.050 ml | C(C)(=O)O | C2H4O2
solvent | NaHCO3 | 20.0 mL | C(=O)(O)[O-].[Na+]
solvent | water | 2.00 mL | O | H2O
product | 1-{dicyclopropyl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}urea | C1(CC1)C(NC(=O)N)(C1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C1CC1 | C25H25F3N6O
